US05294612
To a mixture of ethyl 4-pyridylacetate (46.7 g, 0.28 mol), 3,3-bis(methylthio)-2-cyanoacrylonitrile (47.6 g, 0.28 mol) and p-dioxane (300 ml) cooled in an ice bath was added 60% NaH (11.2 g, 0.28 mol) over 30 minutes. The mixture was slowly warmed to room temperature over 2 hours and was stirred at ambient temperature for 4 hours. The mixture was poured into ice-water, acidified with acetic acid and the resulting precipitate was collected by filtration and washed with water. The product was recrystallized from cyclohexane and dried at 70°-75° C. in high vacuum to afford 40.3 g (50%) of ethyl 2-(2,2-dicyano-1-methylthioethenyl)-4-pyridylacetate as orange crystals, m.p 148°-152° C.

reactant | ethyl 4-pyridylacetate | 0.28 mol, 46.7 g | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | 3,3-bis(methylthio)-2-cyanoacrylonitrile | 0.28 mol, 47.6 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | p-dioxane | 300 ml | O1CCOCC1 | C4H8O2
reactant | NaH | 0.28 mol, 11.2 g | [H-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 2-(2,2-dicyano-1-methylthioethenyl)-4-pyridylacetate | 40.3 g, 50% | C(#N)C(=C(SC)C1=NC=CC(=C1)CC(=O)OCC)C#N | C14H13N3O2S
